### PR TITLE
[Merged by Bors] - feat: add relNorm_algebraMap

### PR DESCRIPTION
**Pull request by riccardobrasca**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Norm/RelNorm.lean [hunk 1]
```diff
@@ -243,6 +240,23 @@ theorem map_relNorm (I : Ideal S) {T : Type*} [Semiring T] (f : R →+* T) :
 theorem relNorm_mono {I J : Ideal S} (h : I ≤ J) : relNorm R I ≤ relNorm R J :=
   spanNorm_mono R h
 
+theorem relNorm_algebraMap (I : Ideal R) : relNorm R (I.map (algebraMap R S)) =
+    I ^ (Module.finrank (FractionRing R) (FractionRing S)) := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Ideal/Norm/RelNorm.lean]: style nit:
```suggestion
theorem relNorm_algebraMap (I : Ideal R) :
    relNorm R (I.map (algebraMap R S)) =
      I ^ Module.finrank (FractionRing R) (FractionRing S) := by
```
(to make it easier to spot the `=`)

File: Mathlib/RingTheory/Ideal/Norm/RelNorm.lean [hunk 2]
```diff
@@ -243,6 +240,23 @@ theorem map_relNorm (I : Ideal S) {T : Type*} [Semiring T] (f : R →+* T) :
 theorem relNorm_mono {I J : Ideal S} (h : I ≤ J) : relNorm R I ≤ relNorm R J :=
   spanNorm_mono R h
 
+theorem relNorm_algebraMap (I : Ideal R) : relNorm R (I.map (algebraMap R S)) =
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Ideal/Norm/RelNorm.lean]: Arguably this version is worth having too:
```lean
theorem relNorm_algebraMap' {R'} [CommRing R'] (I : Ideal R') [Algebra R' R] [Algebra R' S] [IsScalarTower R' R S] :
    relNorm R (I.map (algebraMap R' S)) =
      I.map (algebraMap R' R) ^ Module.finrank (FractionRing R) (FractionRing S) := by
  rw [← relNorm_algebraMap, Ideal.map_map, IsScalarTower.algebraMap_eq R' R S]
```

**Review by eric-wieser — APPROVED** [review]
maintainer merge

File: Mathlib/RingTheory/Ideal/Norm/RelNorm.lean [hunk 3]
```diff
@@ -243,6 +240,33 @@ theorem map_relNorm (I : Ideal S) {T : Type*} [Semiring T] (f : R →+* T) :
 theorem relNorm_mono {I J : Ideal S} (h : I ≤ J) : relNorm R I ≤ relNorm R J :=
   spanNorm_mono R h
 
+variable {R} (S)
+
+theorem relNorm_algebraMap (I : Ideal R) :
+    relNorm R (I.map (algebraMap R S)) =
+      I ^ Module.finrank (FractionRing R) (FractionRing S) := by
```
Comment (xroblot) [inline Mathlib/RingTheory/Ideal/Norm/RelNorm.lean:319]:
```suggestion
    relNorm R (I.map (algebraMap R S)) = I ^ Module.finrank (FractionRing R) (FractionRing S) := by
```

File: Mathlib/RingTheory/Ideal/Norm/RelNorm.lean [hunk 4]
```diff
@@ -243,6 +240,33 @@ theorem map_relNorm (I : Ideal S) {T : Type*} [Semiring T] (f : R →+* T) :
...
+    ← I.map_map, ← (I.map _).span_singleton_generator, Ideal.map_span, Set.image_singleton,
+    spanNorm_singleton, Ideal.span_singleton_pow]
+  congr 2
+  apply IsFractionRing.injective Rₚ K
+  rw [Algebra.algebraMap_intNorm (L := FractionRing S), ← IsScalarTower.algebraMap_apply,
+    IsScalarTower.algebraMap_apply Rₚ K, Algebra.norm_algebraMap, map_pow]
+
+variable (R)
+
+theorem relNorm_algebraMap' {R'} [CommRing R'] (I : Ideal R') [Algebra R' R]
```
Comment (xroblot) [inline Mathlib/RingTheory/Ideal/Norm/RelNorm.lean:337]: It took me a while to understand what this results says and how it compares to the unprimed version. Maybe a docstring could be useful here ;)

File: Mathlib/RingTheory/Ideal/Norm/RelNorm.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Norm/RelNorm.lean:319]: Oh. I didn't see that Eric wrote about that. Sorry for the noise.

File: Mathlib/RingTheory/Ideal/Norm/RelNorm.lean [hunk 5]
```diff
@@ -243,6 +240,34 @@ theorem map_relNorm (I : Ideal S) {T : Type*} [Semiring T] (f : R →+* T) :
...
+  rw [← spanNorm_eq]
+  refine eq_of_localization_maximal (fun P hPd ↦ ?_)
+  let P' := Algebra.algebraMapSubmonoid S P.primeCompl
+  let Rₚ := Localization.AtPrime P
+  let K := FractionRing R
+  simp only [← spanIntNorm_localization (R := R) (Sₘ := Localization P') _ _
+    P.primeCompl_le_nonZeroDivisors]
+  rw [Ideal.map_pow, I.map_map, ← IsScalarTower.algebraMap_eq, IsScalarTower.algebraMap_eq R Rₚ,
+    ← I.map_map, ← (I.map _).span_singleton_generator, Ideal.map_span, Set.image_singleton,
+    spanNorm_singleton, Ideal.span_singleton_pow]
```
Comment (ocfnash) [inline Mathlib/RingTheory/Ideal/Norm/RelNorm.lean]: Any reason not just:
```suggestion
  rw [← spanIntNorm_localization R _ _ P.primeCompl_le_nonZeroDivisors (Localization P'),
    Ideal.map_pow, I.map_map, ← IsScalarTower.algebraMap_eq, IsScalarTower.algebraMap_eq R Rₚ,
    ← I.map_map, ← (I.map _).span_singleton_generator, Ideal.map_span, Set.image_singleton,
    spanNorm_singleton, Ideal.span_singleton_pow]
```

**Review by ocfnash — APPROVED** [review]
Thanks!

I think after #28551 you'll need to define that instance in-line for this to work.

bors d+

**Comment by riccardobrasca** [comment]
bors merge
